US06727264B1
2-METHYL-N-[3-(1-{[1-(1-NAPHTHYL)-1H-INDOL-5-YL]METHYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE:
Prepared by Procedure C and Scheme Q1, with CuBr in place of Cu, using 1-iodonaphthalene and N-{3-[1-(1H-indol-5-ylmethyl)-4-piperidinyl]phenyl}-2-methylpropanamide: ESMS m/e: 502.2 (M+H)+.

reactant | 1-iodonaphthalene | IC1=CC=CC2=CC=CC=C12 | C10H7I
reactant | N-{3-[1-(1H-indol-5-ylmethyl)-4-piperidinyl]phenyl}-2-methylpropanamide | N1C=CC2=CC(=CC=C12)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C24H29N3O
product | 2-METHYL-N-[3-(1-{[1-(1-NAPHTHYL)-1H-INDOL-5-YL]METHYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC=1C=C2C=CN(C2=CC1)C1=CC=CC2=CC=CC=C12)C | C34H35N3O
